.subckt nor2 in1 in2 out Vdd 
.param NorP=4
.PARAM Lmin=32n
.PARAM Wmin=32n
.PARAM Ldiff=64n

M1 out in1 0 0 nmos W={Wmin} L={Lmin}
M2 out in2 0 0 nmos W={Wmin} L={Lmin}
M3 out in1 x 1 pmos W={Wmin*NorP} L={Lmin}  
M4 x in2 Vdd 1 pmos W={Wmin*NorP} L={Lmin} 
.ends 

